US06818643B1
A solution of lithium aluminum hydride (1.0 M in tetrahydrofuran, 2.00 mL, 2.00 mmol) was added dropwise to a solution of ethyl-2-(3-phenylpropyl)-5-(3,4,5-trimethoxyphenyl)pentanoate (1.39 g, 3.36 mmol) in ether (30 mL) at 0° C. After 30 min., a second aliquot of lithium aluminum hydride (1.0 M in tetrahydrofuran, 1.00 mL, 1.00 mmol) was added and the resulting solution was stirred for 30 minutes. Rochelles salt (1 M, 40 mL) was added and the mixture was stirred vigorously for 1.5 h. The aqueous layer was extracted with ether and the combined organic layers were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified silica gel chromatography, eluting with 50% ethyl acetate/hexanes, to yield 4-hydroxymethyl-7-phenyl-1-(3,4,5-trimethoxyphenyl)heptane (1.23 g, 98%). 1H NMR (300 MHz, CDCl3): δ 1.36 (m, 5 H), 1.60 (m, 5 H), 2.56 (t, 2 H, J=7.7), 2.63 (t, 2 H, J=7.7), 3.58 (d, 2 H, J=5.3), 3.84 (s, 3 H), 3.86 (s, 6 H), 6.40 (s, 2 H), 7.25 (m, 5 H).

reactant | lithium aluminum hydride | 2.00 mmol, 1.0 M, 2.00 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl-2-(3-phenylpropyl)-5-(3,4,5-trimethoxyphenyl)pentanoate | 3.36 mmol, 1.39 g | C(C)OC(C(CCCC1=CC(=C(C(=C1)OC)OC)OC)CCCC1=CC=CC=C1)=O | C25H34O5
reactant | lithium aluminum hydride | 1.00 mmol, 1.0 M, 1.00 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 30 mL | CCOCC | C4H10O
product | 4-hydroxymethyl-7-phenyl-1-(3,4,5-trimethoxyphenyl)heptane | 1.23 g, 98% | OCC(CCCC1=CC(=C(C(=C1)OC)OC)OC)CCCC1=CC=CC=C1 | C23H32O4
